US05470845
A. 4-(1-Hydroxy-3-phenyl-2-propynyl)benzoic acid, methyl ester
To a stirred solution of 4.40 mL (40.0 mmol) of phenylpropyne in 30 mL of THF under nitrogen at -75° C. was added a solution of 16 mL (40 mmol) of 2.5M n-butyllithium in hexane over 20 min. The resulting light yellow solution was warmed to 0° C. and stirred for 30 min. This solution was added via syringe to a slurry of 6.25 g (38.0 mmol) of methyl 4-formylbenzoate in 30 mL of THF at -30° C. over 20 min. The resulting light yellow solution was warmed to room temperature and stirred for 30 min. The reaction was quenched with saturated ammonium chloride solution, extracted twice with ether, dried (MgSO4) and evaporated. Purification by flash chromato-graphy (5×15 cm column, 1:19 ether/dichloromethane as elutent) gave title compound as a white solid, mp 48°-50° C., 9.36 g, 88% yield.

reactant | phenylpropyne | 40.0 mmol, 4.40 mL | C1(=CC=CC=C1)C#CC | C9H8
reactant | n-butyllithium | 40 mmol, 2.5M, 16 mL | C(CCC)[Li]
reactant | methyl 4-formylbenzoate | 38.0 mmol, 6.25 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(1-Hydroxy-3-phenyl-2-propynyl)benzoic acid, methyl ester | 88% yield | OC(C#CC1=CC=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C17H14O3
